US04965401
5 g of sodium 2-propyl-2-pentenoate, E isomer, are stirred in 20 ml of boiled water and a solution of 2.29 g of calcium chloride dihydrate in 10 ml of boiled water is added in the presence of an antioxidant (hydroquinone). The precipitate obtained is filtered off and washed with water and acetone. 2.85 g of calcium 2-propyl-2-pentenoate, E isomer, are obtained.

reactant | sodium 2-propyl-2-pentenoate | 5 g | C(CC)C(C(=O)[O-])=CCC.[Na+]
reactant | calcium chloride dihydrate | 2.29 g | O.O.[Cl-].[Ca+2].[Cl-]
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | 20 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | calcium 2-propyl-2-pentenoate | 2.85 g | C(CC)C(C(=O)[O-])=CCC.[Ca+2].C(CC)C(C(=O)[O-])=CCC | InChI=1S/2C8H14O2.Ca/c2*1-3-5-7(6-4-2)8(9)10;/h2*5H,3-4,6H2,1-2H3,(H,9,10);/q;;+2/p-2
